datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1cc2c(cc1C)[n+:21]([H:20])cn2[C@H]1OC[C@@H](O)[C@@H](O)[C@@H]1O.Nc1cc[n:10]cc1>>Cc1cc2c(cc1C)[n:21]cn2[C@H]1OC[C@@H](O)[C@@H](O)[C@@H]1O.Nc1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"C(=C(c1ccccc1)[O-:10])c1ccccn1.CCCCCCCCCC[N+:21](CCO)(CC(O)CC)[H:20]>>C(=C(c1ccccc1)[O:10][H:20])c1ccccn1.CCCCCCCCCC[N:21](CCO)CC(O)CC 10=20;20,21=21",
"N[N-:10]C(=O)c1cccnc1.[NH3+]c1ccc(/C=N/NC(=O)c2cc[n+:21]([H:20])cc2)cc1>>N[N:10](C(=O)c1cccnc1)[H:20].[NH3+]c1ccc(/C=N/NC(=O)c2cc[n:21]cc2)cc1 10=20;20,21=21",
"COc1ccc(N)c[n:10]1.Cc1cc(C)[n+:21]([H:20])c(N)c1>>COc1ccc(N)c[n+:10]1[H:20].Cc1cc(C)[n:21]c(N)c1 10=20;20,21=21",
"Cc1ccc(C)c(N[N+:21](=C(C#N)C#N)[H:20])c1.Nc1ccc(S(=O)(=O)Nc2cccc[n:10]2)cc1>>Cc1ccc(C)c(N[N:21]=C(C#N)C#N)c1.Nc1ccc(S(=O)(=O)Nc2cccc[n+:10]2[H:20])cc1 10=20;20,21=21",
"CCOC(=O)C1=N[N:21]([H:20])C2=C(C1=O)C(=O)N(C)C(=O)N2C.O=[N+]([O-])c1ccc2ccc([NH2:10])cc2c1>>CCOC(=O)C1=N[N-:21]C2=C(C1=O)C(=O)N(C)C(=O)N2C.O=[N+]([O-])c1ccc2ccc([NH2+:10][H:20])cc2c1 10=20;20,21=21",
"CCCCCn1cc[n:10]c1.c1ccc(CSc2[nH]c(-c3ccccc3)c(SCc3ccccc3)[n+:21]2[H:20])cc1>>CCCCCn1cc[n+:10]([H:20])c1.c1ccc(CSc2[nH]c(-c3ccccc3)c(SCc3ccccc3)[n:21]2)cc1 10=20;20,21=21",
"CC(=O)Nc1ccc2cc3ccccc3[n+:21]([H:20])c2c1.O=C1NC(Cc2ccccc2)C(=O)[N-:10]1>>CC(=O)Nc1ccc2cc3ccccc3[n:21]c2c1.O=C1NC(Cc2ccccc2)C(=O)[N:10]1[H:20] 10=20;20,21=21",
"CC(C)C1=CC(=O)C([O-:10])=C(Br)C=C1.c1ccc(CC(c2nnn[n-]2)[NH2+:21][H:20])cc1>>CC(C)C1=CC(=O)C([O:10][H:20])=C(Br)C=C1.c1ccc(CC(c2nnn[n-]2)[NH2:21])cc1 10=20;20,21=21",
"O=C1C=C(CO)OC=C1[O:21][H:20].c1ccc(C[NH2:10])cc1>>O=C1C=C(CO)OC=C1[O-:21].c1ccc(C[NH2+:10][H:20])cc1 10=20;20,21=21",
"COC(=O)C1CCC[N:10](C)C1.O=C([O-])[C@@H]1O[C@H](Oc2cc3ccccc3[n+:21]([H:20])c2)[C@@H](O)[C@H](O)[C@H]1O>>COC(=O)C1CCC[N+:10](C)([H:20])C1.O=C([O-])[C@@H]1O[C@H](Oc2cc3ccccc3[n:21]c2)[C@@H](O)[C@H](O)[C@H]1O 10=20;20,21=21",
"CC(=O)Nc1nnc(S(=O)(=O)[NH:21][H:20])s1.Cc1[nH]c(-c2ccccc2)[n:10]c1C>>CC(=O)Nc1nnc(S(=O)(=O)[NH-:21])s1.Cc1[nH]c(-c2ccccc2)[n+:10]([H:20])c1C 10=20;20,21=21",
"CCC(C)[N:21](C(C#N)=C(C#N)C#N)[H:20].O=S1(=O)Cc2cc(Br)ccc2N=C[N-:10]1>>CCC(C)[N-:21]C(C#N)=C(C#N)C#N.O=S1(=O)Cc2cc(Br)ccc2N=C[N:10]1[H:20] 10=20;20,21=21",
"Nc1cccc(-c2cccc(N)[n+:21]2[H:20])n1.O=C(N/N=C/c1ccccc1[O-:10])c1ccncc1>>Nc1cccc(-c2cccc(N)[n:21]2)n1.O=C(N/N=C/c1ccccc1[O:10][H:20])c1ccncc1 10=20;20,21=21",
"CCC[n+]1cccc2c([O-:10])cccc21.c1cc([O:21][H:20])c2ccnnc2c1>>CCC[n+]1cccc2c([O:10][H:20])cccc21.c1cc([O-:21])c2ccnnc2c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[O-]c1ccc(CC[NH2:10])cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[O-]c1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(C)P(=O)(C(C)C)[O:21][H:20].Nc1ccc2cc3cc(Cl)ccc3[n:10]c2c1>>CC(C)P(=O)(C(C)C)[O-:21].Nc1ccc2cc3cc(Cl)ccc3[n+:10]([H:20])c2c1 10=20;20,21=21",
"CCNc1nc(N)[n+:21]([H:20])c(N)n1.O=C(c1cccc(C2CC2)c1)[O-:10]>>CCNc1nc(N)[n:21]c(N)n1.O=C(c1cccc(C2CC2)c1)[O:10][H:20] 10=20;20,21=21",
"CC[C@H](C(=O)[O:21][H:20])[C@@]1(O)C[C@H]2CC[C@@H]1C2.CC[N:10]1[C@H](C)[C@@H]1C>>CC[C@H](C(=O)[O-:21])[C@@]1(O)C[C@H]2CC[C@@H]1C2.CC[N+:10]1([H:20])[C@H](C)[C@@H]1C 10=20;20,21=21",
"Cc1cc(-c2ccccc2)n[n+](C)c1NCC[N:10]1CCOCC1.O=C(CC#Cc1ccccc1)[O:21][H:20]>>Cc1cc(-c2ccccc2)n[n+](C)c1NCC[N+:10]1([H:20])CCOCC1.O=C(CC#Cc1ccccc1)[O-:21] 10=20;20,21=21",
"CCC(=O)OCC[N:10](C)C.Nc1nc(N)c2c(nc[n:21]2[H:20])n1>>CCC(=O)OCC[N+:10](C)(C)[H:20].Nc1nc(N)c2c(nc[n-:21]2)n1 10=20;20,21=21",
"CCN(CC)C(=S)[N:21](C(=O)c1ccccc1)[H:20].Cn1n[n+](C)nc1[NH-:10]>>CCN(CC)C(=S)[N-:21]C(=O)c1ccccc1.Cn1n[n+](C)nc1[NH:10][H:20] 10=20;20,21=21",
"C1CCC[NH:10]CCCCCCNCC1.SCC[N+:21](Cc1ccccc1)(Cc1ccccc1)[H:20]>>C1CCC[NH+:10]([H:20])CCCCCCNCC1.SCC[N:21](Cc1ccccc1)Cc1ccccc1 10=20;20,21=21",
"NC(=S)C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NC(=S)C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN(C)/C=N/c1ccccc1[O-:10].Cc1ccc2c(ccc[n+:21]2[H:20])c1>>CN(C)/C=N/c1ccccc1[O:10][H:20].Cc1ccc2c(ccc[n:21]2)c1 10=20;20,21=21",
"CCC(C)(C(=O)[O-])[NH2+:21][H:20].O=[N+]([O-])c1ccc([N-:10]S(=O)(=O)c2ccccc2)cc1>>CCC(C)(C(=O)[O-])[NH2:21].O=[N+]([O-])c1ccc([N:10](S(=O)(=O)c2ccccc2)[H:20])cc1 10=20;20,21=21",
"O=C(CCc1c[nH]c[nH+]1)[O:21][H:20].O=C1C=Cc2ccccc2C=C1[O-:10]>>O=C(CCc1c[nH]c[nH+]1)[O-:21].O=C1C=Cc2ccccc2C=C1[O:10][H:20] 10=20;20,21=21",
"Clc1cccc([O-:10])c1Cl.O=C(c1ccc(/N=C/c2ccccc2)cc1)[O:21][H:20]>>Clc1cccc([O:10][H:20])c1Cl.O=C(c1ccc(/N=C/c2ccccc2)cc1)[O-:21] 10=20;20,21=21",
"Cc1cc(C)c(C)c(C(=O)[O:21][H:20])c1C.OCCCCc1cc[n:10]cc1>>Cc1cc(C)c(C)c(C(=O)[O-:21])c1C.OCCCCc1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CCCCn1cc[n+:21]([H:20])c1.C[NH+]1CCCC1c1ccc[n:10]c1>>CCCCn1cc[n:21]c1.C[NH+]1CCCC1c1ccc[n+:10]([H:20])c1 10=20;20,21=21",
"CC(C)[NH+:21](CCN)[H:20].[O-]c1ccc([O-:10])cc1>>CC(C)[NH:21]CCN.[O-]c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"C1CNCCNCC[NH:10]C1.CCCC[N+:21](CCCC)(c1ccc([N+](=O)[O-])cc1)[H:20]>>C1CNCCNCC[NH+:10]([H:20])C1.CCCC[N:21](CCCC)c1ccc([N+](=O)[O-])cc1 10=20;20,21=21",
